US07282588B2
N-(4-{4-[2-(4-{[ethyl(2-hydroxyethyl)amino]methyl}phenyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-methyl-1H-pyrazol-3-yl}phenyl)-1-pyrrolidinecarboxamide
Following the procedure described in Intermediate 101 using N-(4-{4-[2-(4-formylphenyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-methyl-1H-pyrazol-3-yl}phenyl)-1-pyrrolidinecarboxamide and 2-(ethylamino)ethanol in dichloroethane (instead of dichloromethane) provided the title compound. ESMS [M+H]+: 704.6.

reactant | N-(4-{4-[2-(4-formylphenyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-methyl-1H-pyrazol-3-yl}phenyl)-1-pyrrolidinecarboxamide | C(=O)C1=CC=C(C=C1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)C)C2=CC=C(C=C2)NC(=O)N2CCCC2)N1S(=O)(=O)C1=CC=CC=C1 | C35H30N6O4S
reactant | 2-(ethylamino)ethanol | C(C)NCCO | C4H11NO
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | N-(4-{4-[2-(4-{[ethyl(2-hydroxyethyl)amino]methyl}phenyl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1-methyl-1H-pyrazol-3-yl}phenyl)-1-pyrrolidinecarboxamide | C(C)N(CCO)CC1=CC=C(C=C1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)C)C2=CC=C(C=C2)NC(=O)N2CCCC2)N1S(=O)(=O)C1=CC=CC=C1 | C39H41N7O4S
